US07528120B2
To a solution of {4-[2-(4-benzyloxy-phenyl)-ethyl]-2-methyl-4,5-dihydro-oxazol-4-yl}-methanol (26.1 g, 0.08 mol) in methanol (800 ml) is added palladium on charcoal (2.6 g, 10% wt), and the reaction mixture is stirred under hydrogen atmosphere at RT for 5 hours. The reaction mixture is then filtered through celite and concentrated under vacuum. (R/S)-4-[2-(4-Hydroxymethyl-2-methyl-4,5-dihydro-oxazol-4-yl)-ethyl]-phenol is isolated in quantitative yield after crystallization with ethyl acetate and hexanes.

reactant | {4-[2-(4-benzyloxy-phenyl)-ethyl]-2-methyl-4,5-dihydro-oxazol-4-yl}-methanol | 0.08 mol, 26.1 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC1(N=C(OC1)C)CO | C20H23NO3
solvent | methanol | 800 ml | CO | CH4O
catalyst | palladium on charcoal | 2.6 g | [Pd] | Pd
product | (R/S)-4-[2-(4-Hydroxymethyl-2-methyl-4,5-dihydro-oxazol-4-yl)-ethyl]-phenol | quantitative yield | OCC1(N=C(OC1)C)CCC1=CC=C(C=C1)O | C13H17NO3
